US07816371B2
b. 2-(2-Hydroxyethyl)-5-nitroisoquinolin-1(2H)-one
5-nitro-isochromen-1-one (3.60 g, 0.0170 mol) was suspended in methanol (40 mL), ethanolamine (3.11 g, 0.0508 mol) was added and the reaction mixture was stirred at 70° C. for 2 h under an atmosphere of nitrogen. The mixture was cooled to room temperature and triethylamine (5 mL) was added and the reaction mixture was stirred at room temperature for 2 days. The resulting solid was filtered out (yellow solid was obtained as the desired product, 0.9 g). The filtrate was concentrated and the residue was dissolved in ethylacetate, washed by water and brine, dried over sodium sulfate. Solvent was removed to obtain product as yellow solid (1.3 g). MS m/z=235.1 (M+1).

reactant | 5-nitro-isochromen-1-one | 0.0170 mol, 3.60 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | ethanolamine | 0.0508 mol, 3.11 g | C(O)CN | C2H7NO
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 mL | CO | CH4O
product | 2-(2-Hydroxyethyl)-5-nitroisoquinolin-1(2H)-one | OCCN1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C11H10N2O4
